US06730371B2
(2) Synthesis of 4′-acetoxybiphenyl-4-carbonyl chloride
59.8 g (233.4 mmol) of 4′-acetoxybiphenyl-4-carboxylic acid and 278 g (2.33 mol) of purified thionyl chloride were placed in a reactor and refluxed under heat (79° C.) for 4 hours. Thionyl chloride was distilled off under atmospheric pressure, 150 ml of toluene was added, and toluene and thionyl chloride were distilled off under reduced pressure, to give 63 g of an end compound (yield498%).

reactant | 4′-acetoxybiphenyl-4-carboxylic acid | 233.4 mmol, 59.8 g | C(C)(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C15H12O4
reactant | thionyl chloride | 2.33 mol, 278 g | S(=O)(Cl)Cl | Cl2OS
product | 4′-acetoxybiphenyl-4-carbonyl chloride | 63 g, yield498% | C(C)(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)Cl | C15H11ClO3
